US08278294B2
0.54 g (1.2 mmol) (S)-3-[2-(4-Methoxy-benzyl)-7-methyl-1-oxo-1,2-dihydro-isoquinolin-6-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester were dissolved in 2.7 g (23 mmol) trifluoroacetic acid. After 1 h at room temperature the mixture was heated for 2 h in a microwave oven at 150° C. Then the excess trifluoroacetic acid was distilled off in vacuo and the residue was diluted with 10 ml 1 M hydrochloric acid. The aqueous phase was washed with methylene chloride twice and then it was freeze dried to give 0.256 g 7-Methyl-6-((S)-pyrrolidin-3-yloxy)-2H-isoquinolin-1-one as the hydrochloride. Rt=0.90 min (Method B). Detected mass: 245.2 (M+H+).

reactant | (S)-3-[2-(4-Methoxy-benzyl)-7-methyl-1-oxo-1,2-dihydro-isoquinolin-6-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.2 mmol, 0.54 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC=1C=C2C=CN(C(C2=CC1C)=O)CC1=CC=C(C=C1)OC | C27H32N2O5
reactant | trifluoroacetic acid | 23 mmol, 2.7 g | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Methyl-6-((S)-pyrrolidin-3-yloxy)-2H-isoquinolin-1-one | 0.256 g | CC1=C(C=C2C=CNC(C2=C1)=O)O[C@@H]1CNCC1 | C14H16N2O2
